US07772245B2
To a stirred solution of tert-butyl 2-[5-(methoxycarbonyl)pyrimidin-2-yl]-1,2,3,4-tetrahydro-9H-b-carboline-9-carboxylate (3.0 g, 0.0073 moles) in dry DCM (30 mL) was added diisobutyl aluminum hydride (14.7 mL, 0.022 moles, 1.5N in DCM) at −78° C. The temperature was slowly allowed to rise to −25° C. and continued the stirring for further 6.0 hours. After completion of the reaction, MeOH (20 mL) and water (20 mL) was added to the reaction and allowed to come to room temperature. The reaction mixture was then extracted using DCM. The combined organic layer was washed with water (20 mL), brine (20 ml), dried (Na2SO4) and concentrated. The compound was purified by recrystallization using mixture of diethyl ether and hexane to give pure tert-butyl 2-[5-(hydroxymethyl)pyrimidin-2-yl]-1,2,3,4-tetrahydro-9H-b-carboline-9-carboxylate (2.1 g, 75% yield). Rf=0.3. 1H NMR (DMSO-d6, 400 MHz) ppm: 8.38 (s, 2H, 2Ar—H), 8.05 (d, 1H, J=8 Hz, 1—H), 7.49 (d, 1H, J=8 Hz, 1Ar—H), 7.31-7.22 (m, 2H, 2Ar—H), 5.15 (s, 2H, CH2), 5.10 (t, 1H, J=8 Hz, OH), 4.34 (d, 2H, J=8 Hz, CH2), 4.11 (t, 2H, CH2), 2.75 (brs, 2H, CH2), 1.68 (s, 9H, 3CH3). M/e=381 (M+1) (M, 380.440 Calcd. for C21H24N4O3).

reactant | tert-butyl 2-[5-(methoxycarbonyl)pyrimidin-2-yl]-1,2,3,4-tetrahydro-9H-b-carboline-9-carboxylate | 0.0073 moles, 3.0 g | COC(=O)C=1C=NC(=NC1)N1CC=2N(C3=CC=CC=C3C2CC1)C(=O)OC(C)(C)C | C22H24N4O4
reactant | diisobutyl aluminum hydride | 0.022 moles, 1.5N, 14.7 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | MeOH | 20 mL | CO | CH4O
reactant | water | 20 mL | O | H2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-[5-(hydroxymethyl)pyrimidin-2-yl]-1,2,3,4-tetrahydro-9H-b-carboline-9-carboxylate | 2.1 g, 75% yield | OCC=1C=NC(=NC1)N1CC=2N(C3=CC=CC=C3C2CC1)C(=O)OC(C)(C)C | C21H24N4O3
